US04228168
15 ml of ethanol and 3 ml of 10% ethanolic hydrogen chloride were added to 2.86 g of 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline, and the mixture was refluxed for 2 hours. After the reaction was completed, the mixture was evaporated under reduced pressure to remove solvent. The residue thus obtained was alkalified with an aqueous saturated sodium bicarbonate solution and then extracted with ethyl acetate. The extract was washed with water, dried and evaporated to remove solvent. 2.67 g of 1,2,3,4-tetrahydro-1-(3-ethoxycarbonylpropyl)-2-ethyl-β-carboline were obtained. Yield: 85.0%.

reactant | hydrogen chloride | 3 ml | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline | 2.86 g | C(=O)(O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | C17H22N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 1,2,3,4-tetrahydro-1-(3-ethoxycarbonylpropyl)-2-ethyl-β-carboline | 2.67 g, Yield: 85.0% | C(C)OC(=O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | C19H26N2O2
